US04709048
(d) Preparation of (S)-6-Ethyl-1,4-dioxaspiro[4.5]decane-6-propanoic Acid, 2-Hydroxyethyl Ester
(S)-1-Ethyl-2-oxocyclohexanepropanoic acid (605 g), and ethylene glycol (14.6 mol, 906 g, 814 mL) were refluxed in 1.5 L of toluene containing 10 g of p-toluenesulfonic acid with azeotropic removal of water. After 56 hours, water stopped coming off. The reaction was diluted with 1 L of toluene and washed with water (2×500 mL), saturated sodium bicarbonate (aq) (2×500 mL), and brine (500 mL). Drying (magnesium sulfate) and concentration afforded 942 g of clear yellow oil which was used as in the next step.

reactant | (S)-1-Ethyl-2-oxocyclohexanepropanoic acid | 605 g | C(C)[C@@]1(C(CCCC1)=O)CCC(=O)O | C11H18O3
reactant | ethylene glycol | 14.6 mol, 814 mL, 906 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 1.5 L, 10 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | (S)-6-Ethyl-1,4-dioxaspiro[4.5]decane-6-propanoic Acid, 2-Hydroxyethyl Ester | 942 g | C(C)[C@@]1(C2(OCCO2)CCCC1)CCC(=O)OCCO | C15H26O5
